US20010056117A1
To a solution of 8-methoxy-1,4-benzodioxane-5-carbaldehyde (12 g, 62 mmol) in acetonitrile (140 mL) was added lithium bromide (12 g, 110 mmol), and then trimethylsilyl chloride (12 mL, 95 mmol) was added dropwise. After 15 minutes, the mixture was ice-cooled, and 1,1,3,3-tetramethyldisiloxane (19 mL, 110 mmol) was added dropwise, followed by stirring at room temperature for 2 hours. The mixture was diluted with dichloromethane, and then was filtered through Celite. The solvent was evaporated in vacuo to give a pale yellow oil. To a solution of the obtained crude 5-bromomethyl-8-methoxy-1,4-benzodioxane in DMF(180 mL) was added sodium cyanide (9.2 g, 190 mmol), followed by stirring at room temperature for 60 hours. To the mixture was added water under ice-cooling, and the precipitated solid was collected by filtration to give Compound 1a (6.8 g, 53%) as an ash-colored solid.

reactant | 8-methoxy-1,4-benzodioxane-5-carbaldehyde | 62 mmol, 12 g | COC1=CC=C(C2=C1OCCO2)C=O | C10H10O4
reactant | lithium bromide | 110 mmol, 12 g | [Br-].[Li+]
reactant | trimethylsilyl chloride | 95 mmol, 12 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1,1,3,3-tetramethyldisiloxane | 110 mmol, 19 mL | C[SiH](O[SiH](C)C)C | C4H14OSi2
solvent | acetonitrile | 140 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
product | 5-bromomethyl-8-methoxy-1,4-benzodioxane | BrCC1=CC=C(C=2OCCOC21)OC | C10H11BrO3
